US05523152
2-(Acryloyloxyethoxy)phenol acrylate (PPEDA)
A 500-ml, two necked flask was equipped with magnetic stirring bar, nitrogen atmosphere and an addition funnel. The flask was charged with 25 g of 2-(2-hydroxyethoxy)phenol (0.16 mol.), 33 g of triethylamine (0.32 mol.), 250 ml of tetrahydrofuran and 1 g of phenothiazine. Next, 30 g of acryloyl chloride (0.18 mol.) was slowly added to the reaction over 1 hour via the addition funnel. The triethylamine hydrochloride salt was removed by filtration and the mother liquor was evaporated with a rotoevaporator. The remaining liquid was dissolved in chloroform and washed with NaCl(aq.), NH4OH(10%), NaCl(aq.) and dried over MgSO4. The chloroform was removed with a rotoevaporator to yield 26 g (62%) of a reddish brown liquid. The product was confirmed by IR and 13C NMR.

reactant | 2-(2-hydroxyethoxy)phenol | 0.16 mol, 25 g | OCCOC1=C(C=CC=C1)O | C8H10O3
reactant | triethylamine | 0.32 mol, 33 g | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.18 mol, 30 g | C(C=C)(=O)Cl | C3H3ClO
reactant | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
catalyst | phenothiazine | 1 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
product | 2-(Acryloyloxyethoxy)phenol acrylate | 26 g, 62% | C(C=C)(=O)OC1=C(C=CC=C1)OCCOC(C=C)=O | C14H14O5
